US07705028B2
3b) [5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol
To a solution of ethyl 5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate (1.5 g, 4.47 mmol) in tetrahydrofuran (20 mL) at 0° C. was added a 1.5 M solution of diisobutylaluminum hydride in toluene (6.3 mL, 9.39 mmol) slowly. The solution was allowed to warm slowly to ambient temperature and after 4 hours the solution was re-cooled to 0° C. and additional 1.5 M diisobutylaluminum hydride in toluene was added (6 mL, 9 mmol). The solution was allowed to stir with the flask in the ice bath for 1.5 h. Some aqueous Rochelle's salt was added dropwise followed by ethyl acetate. The mixture was stirred overnight and the phases were separated. The aqueous phase was extracted one more time with ethyl acetate. The combined organic phases were washed with Rochelle's salt, then brine, dried over MgSO4 and concentrated in vacuo to yield a white solid. (1.3 g, 98%). 1H-NMR (DMSO-d6,) δ 7.61-7.51 (m, 3H), 4.87 (t, J=5 Hz, 1H), 4.10 (d, J=5 Hz, 2H), 3.87 (quintet, J=9 Hz, 1H), 2.37-2.30 (m, 4H), 2.29-1.87 (m, 2H).

reactant | ethyl 5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate | 4.47 mmol, 1.5 g | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)C(=O)OCC | C16H15Cl2NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1.5 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 9.39 mmol, 6.3 mL | C1(=CC=CC=C1)C | C7H8
product | [5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C14H13Cl2NO2
